US03932465
A solution of 0.975 g of 7β-formylamino-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid in 10 ml of dioxane is treated with 1.2 ml of a 1:1-mixture of concentrated hydrochloric acid and water and left to stand for 3 days at room temperature. The faintly yellow reaction solution is lyophilised to yield the 7β-amino-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid hydrochloride, which according to thin-layer chromatogram which contains only traces of the starting material; thin-layer chromatogram (silica gel; detection with iodine vapour); Rf = 0.40 (system: n-butanol/acetic acid/water 67:10:23; starting material Rf = 0.56), Rf = 0.51 (system: n-butanol/pyridine/acetic acid/water 40:24:6:30; starting material Rf = 0.60), and Rf = 0.43 (system: ethyl acetate/n-butanol/pyridine/acetic acid/water 42:21:21:6:10; starting material Rf = 0.64).

reactant | 7β-formylamino-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid | 0.975 g | C(=O)N[C@H]1[C@@H]2N(C(C(=CS2)CC2=CC=CS2)C(=O)O)C1=O | C13H12N2O4S2
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 7β-amino-3-(2-thenyl)-ceph-2-em-4ξ-carboxylic acid hydrochloride | Cl.N[C@H]1[C@@H]2N(C(C(=CS2)CC2=CC=CS2)C(=O)O)C1=O | InChI=1S/C12H12N2O3S2.ClH/c13-8-10(15)14-9(12(16)17)6(5-19-11(8)14)4-7-2-1-3-18-7;/h1-3,5,8-9,11H,4,13H2,(H,16,17);1H/t8-,9?,11-;/m1./s1
